US04843062
Step 3. Preparation of N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-[(methoxy)carbonyl]glycine
Trifluoroacetic acid (20.0 mL, 260 mmol) was added to a solution of N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine, 1,1-dimethylethyl ester (1.5 g, 3.41 mmol) in chloroform (25 mL) at 20° C. and the mixture refluxed for 1.5 hours. The solution was cooled to 20° C. and the solvent evaporated under reduced pressure. The residual solid was recrystallized from acetone-water and dried at 70° C./0.1 m.m. Hg to yield the pure product as a white solid (1.4 g, 100%), m.p. 148°-150° C.

reactant | Trifluoroacetic acid | 260 mmol, 20.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine, 1,1-dimethylethyl ester | 3.41 mmol, 1.5 g | COC=1C(=C2C=CC=C(C2=CC1)C(=O)N(CC(=O)OC(C)(C)C)C(=O)OC)C(F)(F)F | C21H22F3NO6
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-[(methoxy)carbonyl]glycine | 1.4 g, 100% | COC=1C(=C2C=CC=C(C2=CC1)C(=O)N(CC(=O)O)C(=O)OC)C(F)(F)F | C17H14F3NO6
